datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[N+:21](C)(c1ccc(Cl)cc1)[H:20].[NH3+]CCCc1cc[n:10]cc1>>C[N:21](C)c1ccc(Cl)cc1.[NH3+]CCCc1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"COc1nc(C)cc([O:21][H:20])[nH+]1.Cc1ccc(S(=O)(=O)[N-:10]CCC(N)=[NH2+])cc1>>COc1nc(C)cc([O-:21])[nH+]1.Cc1ccc(S(=O)(=O)[N:10](CCC(N)=[NH2+])[H:20])cc1 10=20;20,21=21",
"CC(C)(C#N)[NH2+:21][H:20].Cc1ccc([N-:10][N+](=O)[O-])cc1>>CC(C)(C#N)[NH2:21].Cc1ccc([N:10]([N+](=O)[O-])[H:20])cc1 10=20;20,21=21",
"O=C(c1c(Br)cccc1[N+](=O)[O-])[O:21][H:20].S=C(Nc1ccccc1)[N-:10]C(=S)c1ccccc1>>O=C(c1c(Br)cccc1[N+](=O)[O-])[O-:21].S=C(Nc1ccccc1)[N:10](C(=S)c1ccccc1)[H:20] 10=20;20,21=21",
"CCCCCCCCCCCCCC[N:10](CCO)CC(O)CC.O=C([O-])C(Cc1n[nH]c2ccccc12)[NH2+:21][H:20]>>CCCCCCCCCCCCCC[N+:10](CCO)(CC(O)CC)[H:20].O=C([O-])C(Cc1n[nH]c2ccccc12)[NH2:21] 10=20;20,21=21",
"CC[NH+](CC)CCCC(C)Nc1cc[n+:21]([H:20])c2ccc(OC)cc12.O=C([O-])c1ccc2ccccc2[n:10]1>>CC[NH+](CC)CCCC(C)Nc1cc[n:21]c2ccc(OC)cc12.O=C([O-])c1ccc2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"CC(=O)c1ccc(O)c2c1ccc[n:10]2.CCCCCCCC[N+:21](CC(C)O)(CC(O)CC)[H:20]>>CC(=O)c1ccc(O)c2c1ccc[n+:10]2[H:20].CCCCCCCC[N:21](CC(C)O)CC(O)CC 10=20;20,21=21",
"Cn1nc(Cl)nc1[N:21](N=O)[H:20].O=C1NCc2c(nc[n-:10]2)N1>>Cn1nc(Cl)nc1[N-:21]N=O.O=C1NCc2c(nc[n:10]2[H:20])N1 10=20;20,21=21",
"[H:20][NH+:21]1CCNCC1.C[N+]1=CC=C(C=C1)[CH-:10]C(=O)C2=CC=CC=C2>>[H:20][CH:10](C1=CC=[N+](C=C1)C)C(=O)C2=CC=CC=C2.C1C[NH:21]CCN1 10=20;20,21=21",
"CC(=O)CCC(=O)[O-:10].CCCNC(=O)C(Cc1c[nH]c[nH+]1)NC(=O)c1cccc(C[NH+:21](CC[NH3+])[H:20])n1>>CC(=O)CCC(=O)[O:10][H:20].CCCNC(=O)C(Cc1c[nH]c[nH+]1)NC(=O)c1cccc(C[NH:21]CC[NH3+])n1 10=20;20,21=21",
"COC(=O)C(Cc1c[nH]cn1)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COC(=O)C(Cc1c[nH]cn1)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCOC(=O)CC(c1ccccc1)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCOC(=O)CC(c1ccccc1)[NH2+:10][H:20] 10=20;20,21=21",
"CC(C(O)c1ccccc1)[N:10](C)C.Cn1ccc(N)[n+:21]1[H:20]>>CC(C(O)c1ccccc1)[N+:10](C)(C)[H:20].Cn1ccc(N)[n:21]1 10=20;20,21=21",
"Nc1cccc[n:10]1.Nc1nc(N)[n+:21]([H:20])c2nc[nH]c12>>Nc1cccc[n+:10]1[H:20].Nc1nc(N)[n:21]c2nc[nH]c12 10=20;20,21=21",
"C[Si](C)(C)CC[NH2:10].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C[Si](C)(C)CC[NH2+:10][H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCC(CC)(CC)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCC(CC)(CC)[NH2+:10][H:20] 10=20;20,21=21",
"CC(O)C[NH+](CCC[N:10]1CCOCC1)CC(C)O.Cc1cc(C(=O)[O:21][H:20])cs1>>CC(O)C[NH+](CCC[N+:10]1([H:20])CCOCC1)CC(C)O.Cc1cc(C(=O)[O-:21])cs1 10=20;20,21=21",
"C[C@]1(O)CCCC[C@@H]1[NH2+:21][H:20].Cc1cc([O-])[n+](C)c([O-])[n:10]1>>C[C@]1(O)CCCC[C@@H]1[NH2:21].Cc1cc([O-])[n+](C)c([O-])[n+:10]1[H:20] 10=20;20,21=21",
"Cc1ccc2c(c1)c1c3c([n+:21]([H:20])ccn32)CCC1.N#CC1C[N:10]2CCC1CC2>>Cc1ccc2c(c1)c1c3c([n:21]ccn32)CCC1.N#CC1C[N+:10]2([H:20])CCC1CC2 10=20;20,21=21",
"CCC(=O)C(c1ccccc1)(c1ccccc1)C(C)C[N+:21]1([H:20])CCOCC1.O=[N+]([O-])c1ccc(S(=O)[O-:10])cc1>>CCC(=O)C(c1ccccc1)(c1ccccc1)C(C)C[N:21]1CCOCC1.O=[N+]([O-])c1ccc(S(=O)[O:10][H:20])cc1 10=20;20,21=21",
"C1CC[N+:21]2([H:20])C[C@@H]3C[C@@H](CN4CCCC[C@@H]34)[C@H]2C1.Nc1ccc(S(=O)(=O)[N-:10]c2ccc(Br)nc2)cc1>>C1CC[N:21]2C[C@@H]3C[C@@H](CN4CCCC[C@@H]34)[C@H]2C1.Nc1ccc(S(=O)(=O)[N:10](c2ccc(Br)nc2)[H:20])cc1 10=20;20,21=21",
"C[NH+](C)CC[NH2+:21][H:20].Clc1cccc([NH2:10])c1>>C[NH+](C)CC[NH2:21].Clc1cccc([NH2+:10][H:20])c1 10=20;20,21=21",
"CC(C)(Cl)C(=O)[O:21][H:20].OCCc1c[nH+]c(P(c2[nH]c(CCO)c[nH+]2)c2[nH]c(CCO)c[n:10]2)[nH]1>>CC(C)(Cl)C(=O)[O-:21].OCCc1c[nH+]c(P(c2[nH]c(CCO)c[nH+]2)c2[nH]c(CCO)c[n+:10]2[H:20])[nH]1 10=20;20,21=21",
"ClC1C[N:10]2CCC1CC2.O=[N+]([O-])/C=C/c1ccc([O:21][H:20])cc1>>ClC1C[N+:10]2([H:20])CCC1CC2.O=[N+]([O-])/C=C/c1ccc([O-:21])cc1 10=20;20,21=21",
"Nc1ncc2c(n1)nc(-c1ccccc1)[n-:10]2.[S-]c1cnc2cncnc2[n+:21]1[H:20]>>Nc1ncc2c(n1)nc(-c1ccccc1)[n:10]2[H:20].[S-]c1cnc2cncnc2[n:21]1 10=20;20,21=21",
"O/N=C/c1ccc([O-:10])cc1O.O=C(c1ccoc1)[O:21][H:20]>>O/N=C/c1ccc([O:10][H:20])cc1O.O=C(c1ccoc1)[O-:21] 10=20;20,21=21",
"C[N:10](C)C.Cc1[nH][n+:21]([H:20])c(C)c1Cl>>C[N+:10](C)(C)[H:20].Cc1[nH][n:21]c(C)c1Cl 10=20;20,21=21",
"CN1c2ccccc2C(=[NH:10])c2ccccc21.Oc1ccc2cc[n+:21]([H:20])cc2c1>>CN1c2ccccc2C(=[NH+:10][H:20])c2ccccc21.Oc1ccc2cc[n:21]cc2c1 10=20;20,21=21",
"C(=C/c1ccccc1)\C=N\[O-:10].O=C(c1cccc2ccc[nH+]c12)[O:21][H:20]>>C(=C/c1ccccc1)\C=N\[O:10][H:20].O=C(c1cccc2ccc[nH+]c12)[O-:21] 10=20;20,21=21",
"CCOC(=O)C(C)[NH2:10].CC[NH+](CC)CCCCCCCC(C)Nc1c2cc(OC)ccc2[n+:21]([H:20])c2cc(Cl)ccc12>>CCOC(=O)C(C)[NH2+:10][H:20].CC[NH+](CC)CCCCCCCC(C)Nc1c2cc(OC)ccc2[n:21]c2cc(Cl)ccc12 10=20;20,21=21",
"C#CC(C)(C)[NH+:21](C(C)(C)C=C)[H:20].O=C(C1=C(CO)CCC1)[O-:10]>>C#CC(C)(C)[NH:21]C(C)(C)C=C.O=C(C1=C(CO)CCC1)[O:10][H:20] 10=20;20,21=21",
